Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematochezia
 
Major Surgical or Invasive Procedure:
Colonoscopy with cautery
 
History of Present Illness:
HPI(4): Mr. ___ is a ___ male with the past medical
history large ascending colon polyp s/p endomucosal
resection/polypectomy on ___, HTN, GERD, and HLD now presenting
with hematochezia.

Mr. ___ has a history of polyps. He was referred to ___ for
outpatient colonoscopy due to large polyp required endomucosal
resection. His colonoscopy showed 2 polyps one in the ascending
colon and another in the sigmoid colon. He had polypectomy of 
the
polyp in the ascending colon. He had this resection no ___. He
went home and has 2 episodes of dark bloody bowel movements, 
thus
he returned to ___. 

In the ED, vitals without fever, stable hemodynamics and
respiratory status. He had another episode of dark bloody stool
in the ED. Labs notable for H/H: 13.8/42.1 which remained 
stable.
PLT: 229 and INR: 1.1. BMP showed normal renal function with 
BUN:
19, Cr: 1. He was seen by GI. He went for repeat colonoscopy
which showed evidence of bleeding which required cautery.

When I saw him, he was in good spirits. He noted mild lower
abdominal pain, but otherwise no nausea or vomiting. He had a BM
in the PACU without further evidence of blood. He denies chest
pain, dyspnea or lightheadedness.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Several colon polyps 
HTN
GERD
HLD
OSA
Rupture quadriceps tendon after fall

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization. No family history of colon
cancer, though he says polyps run in his family.

 
Physical Exam:
Admission EXAM(8)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT:  Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Mild lower abdominal tenderness, otherwise soft,
non-distended.  Bowel sounds present. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Tattoo noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge EXAM: 
98.2 PO 101 / 63 R Lying 52 18 96 Ra 
GEN: Laying in bed, pleasant, NAD
HEENT: MMM, OP clear
CV: RRR, no JVP
RESP: CTAB, breathing non-labored. 
GI: Soft, NT/ND, +BS
SKIN: No rashes
NEURO: Fluent speech, normal gait
PSYCH: Normal affect
 
Pertinent Results:
Admission Labs: 
___ 03:05AM BLOOD WBC-9.8 RBC-4.48* Hgb-13.6* Hct-41.3 
MCV-92 MCH-30.4 MCHC-32.9 RDW-13.3 RDWSD-45.3 Plt ___
___ 03:05AM BLOOD Glucose-106* UreaN-19 Creat-1.0 Na-144 
K-4.6 Cl-106 HCO3-27 AnGap-11

HH Trend: 
___ 03:05AM BLOOD WBC-9.8 RBC-4.48* Hgb-13.6* Hct-41.3 
MCV-92 MCH-30.4 MCHC-32.9 RDW-13.3 RDWSD-45.3 Plt ___
___ 07:10AM BLOOD WBC-9.7 RBC-4.53* Hgb-13.9 Hct-41.7 
MCV-92 MCH-30.7 MCHC-33.3 RDW-13.3 RDWSD-45.3 Plt ___
___ 11:17AM BLOOD WBC-9.0 RBC-4.53* Hgb-13.8 Hct-42.1 
MCV-93 MCH-30.5 MCHC-32.8 RDW-13.5 RDWSD-45.4 Plt ___
___ 09:20PM BLOOD WBC-8.4 RBC-3.97* Hgb-12.3* Hct-37.0* 
MCV-93 MCH-31.0 MCHC-33.2 RDW-13.4 RDWSD-45.9 Plt ___
___ 05:03AM BLOOD WBC-8.2 RBC-4.02* Hgb-12.0* Hct-36.9* 
MCV-92 MCH-29.9 MCHC-32.5 RDW-13.5 RDWSD-45.5 Plt ___

Discharge Labs:

___ 05:03AM BLOOD WBC-8.2 RBC-4.02* Hgb-12.0* Hct-36.9* 
MCV-92 MCH-29.9 MCHC-32.5 RDW-13.5 RDWSD-45.5 Plt ___
___ 05:03AM BLOOD Glucose-92 UreaN-16 Creat-1.1 Na-141 
K-4.9 Cl-107 HCO3-26 AnGap-8*
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Mr. ___ is a  ___ male with the 
past medical history large ascending colon polyp s/p endomucosal 
resection/polypectomy on ___, HTN, GERD, and HLD now presenting 
with hematochezia.

ACUTE/ACTIVE PROBLEMS:
#Hematochezia: Post-polypectomy bleeding now cauterized without 
hemodynamic instability. He is currently doing well. He 
underwent colonoscopy and cautery with control of the bleeding. 
He was monitored overnight. No further bleeding. Able to 
tolerate a regular diet. He will follow up with his PCP.  
Instructed to callif he develops any further bleeding. 

CHRONIC/STABLE PROBLEMS:
#OSA: CPAP
#HLD: Pravastatin
#GERD: Omeprazole

Greater than 30 minutes spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY  
2.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post polypectomy bleeding
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr ___, 

It was a pleasure taking care of you while you were in the 
hospital. You were admitted with bleeding following your 
procedure to treat remove the polyp. This procedure was 
successful and the bleeding was stopped.

Please take your medications as directed and follow up with your 
regular providers. If you have more bleeding, please call and 
see further care. 
 
Followup Instructions:
___